US07465736B2
Step-2: 3-(1H-1,2,4-triazol-1-yl)propan-1-amine
To a mixture of 3-(1H-1,2,4-triazol-1-yl)-propanenitrile (25 g, 0.204 mol) and Raney-Nickel (5 g, 0.2 w/w, wet) in methanol (300 mL) was added a solution of 25% aqueous NH4OH (75 mL). The above reaction mixture was hydrogenated under pressure (75 psi of hydrogen) for a period of 6 h. The catalyst was then filtered off and the filtrate was concentrated under reduced pressure. The residue obtained was taken up in DCM (150 mL) then triturated 4 times and the combined organic layer was concentrated under reduced pressure to yield 22 g of the title compound as a liquid (85%). The above compound was converted to its hydrochloride using HCl gas in a mixture of ether/methanol (9.5/0.5) to yield 20 g of the product as its dihydrochloride.

reactant | 3-(1H-1,2,4-triazol-1-yl)-propanenitrile | 0.204 mol, 25 g | N1(N=CN=C1)CCC#N | C5H6N4
reactant | NH4OH | 75 mL | [NH4+].[OH-]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 mL | CO | CH4O
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
catalyst | Raney-Nickel | 5 g | [Ni] | Ni
product | 3-(1H-1,2,4-triazol-1-yl)propan-1-amine | 22 g, 85% | N1(N=CN=C1)CCCN | C5H10N4
